US06689922B1
5-{2-[3-(7-Hydroxy-7-methyloct-1-enyl)phenyl]vinyl}-benzene-1,3-diol
In a manner similar to Example 25(d), by reacting 0.037 ml of concentrated sulphuric acid with 374 mg (0.72 mmol) of 8-(3-{2-[3,5-bis(tetrahydropyran-2-yloxy)phenyl]vinyl}phenyl)-2-methyloct-7-en-2-ol in 4 ml of THF and 2 ml of water, after purification on a silica column (ethyl acetate 40-heptane 60), a beige powder (m=40 mg; Y=16%) is obtained. m.p.=152-4° C.

reactant | sulphuric acid | 0.037 ml | S(O)(O)(=O)=O | H2O4S
reactant | 8-(3-{2-[3,5-bis(tetrahydropyran-2-yloxy)phenyl]vinyl}phenyl)-2-methyloct-7-en-2-ol | 0.72 mmol, 374 mg | O1C(CCCC1)OC=1C=C(C=C(C1)OC1OCCCC1)C=CC=1C=C(C=CC1)C=CCCCCC(C)(O)C | C33H44O5
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 5-{2-[3-(7-Hydroxy-7-methyloct-1-enyl)phenyl]vinyl}-benzene-1,3-diol | OC(CCCCC=CC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C23H28O3
